US06630600B1
3-[4-(2-{4-tert-Butoxycarbonylaminophenyl}ethoxy)phenyl]-2-(2,2,2-trifluoroethoxy)propanoic acid methyl ester was synthesized using the same method as in Example 62 (a) from 3-(4-hydroxyphenyl)-2-(2,2,2-trifluoroethoxy)propanoic acid methyl ester and 4-(2-hydroxyethyl)phenylcarbamic acid tert-butyl ester(described in Example 38b.

reactant | 3-(4-hydroxyphenyl)-2-(2,2,2-trifluoroethoxy)propanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)O)OCC(F)(F)F)=O | C12H13F3O4
reactant | 4-(2-hydroxyethyl)phenylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)CCO)=O | C13H19NO3
product | 3-[4-(2-{4-tert-Butoxycarbonylaminophenyl}ethoxy)phenyl]-2-(2,2,2-trifluoroethoxy)propanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)OCC(F)(F)F)=O | C25H30F3NO6
